US05276020
GLA-AHT ("AK 3") (Method B)
Anhydrothymidine (0.520 g, 2.319 mmol, as a dry white powder) was dissolved in anhydrous pyridine (10 ml) under an atmosphere of dry nitrogen, and to this stirred solution at room temperature was added GLA acid chloride (0.900 g, 3.02 mmol). Stirring was continued overnight after which period, TLC indicated complete loss of the starting material. The pyridine was

reactant | Anhydrothymidine | CC1=CN2[C@H]3C[C@H]([C@H](O3)CO)OC2=NC1=O | C10H12N2O4
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | GLA-AHT | CCCCC/C=C\C/C=C\C/C=C\CCCCC(=O)OCC1C2CC(O1)N3C=C(C(=O)N=C3O2)C | C28H40N2O5
